US05294631
To a suspension of 2-n-butyl-1-(2-chlorophenyl)methyl-7-hydroxymethyl-1H-benzimidazole (1.01 g, 2.76 mmol) in methylene chloride (50 mL) was added thionyl chloride (0.61 mL). The resulting solution was stirred at ambient temperature for one hour, the solvent was evaporated, the residue triturated with toluene and then petroleum ether, and the white crystals (1.06 g) of 2-n-butyl-7-chloromethyl-1-(2-chlorophenyl)methyl-1H-benzimidazole were isolated and washed well with ether to give the title compound as the hydrochloride salt; mp 180°-184° C.

reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-7-hydroxymethyl-1H-benzimidazole | 2.76 mmol, 1.01 g | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)CO | C19H21ClN2O
reactant | thionyl chloride | 0.61 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-n-butyl-7-chloromethyl-1-(2-chlorophenyl)methyl-1H-benzimidazole | 1.06 g | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)CCl | C19H20Cl2N2
